US07691882B2
3-Trimethylsilanylethynyl-pyridin-2-ylamine
To a mixture of 3-iodopyridin-2-ylamine (40.2 g, 183 mmol) described in Manufacturing Example 1-2-1, trimethylsilylacetylene (51.7 mL, 366 mmol), copper (I) iodide (3.49 g, 18.3 mmol), N,N-diisopropylethylamine (63.7 mL, 366 mmol) and N-methylpyrrolidinone (200 mL) was added tetrakis(triphenylphosphine)palladium (0) (10.6 g, 9.15 mmol) under nitrogen atmosphere, which was stirred for 3 hours and 10 minutes at room temperature. Water was added to the reaction solution, which was then extracted with ethyl acetate 4 times. The solvent was concentrated under a reduced pressure. The residue was purified by NH silica gel chromatography (heptane:ethyl acetate=4:1). The resulting solution was concentrated under a reduced pressure, and the residue was purified by silica gel chromatography (heptane:ethyl acetate=2:1 then 1:1) to obtain the title compound (28.1 g, 80.7%).

reactant | 3-iodopyridin-2-ylamine | 183 mmol, 40.2 g | IC=1C(=NC=CC1)N | C5H5IN2
reactant | trimethylsilylacetylene | 366 mmol, 51.7 mL | C[Si](C)(C)C#C | C5H10Si
reactant | N,N-diisopropylethylamine | 366 mmol, 63.7 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | N-methylpyrrolidinone | 200 mL | CN1C(CCC1)=O | C5H9NO
catalyst | copper (I) iodide | 18.3 mmol, 3.49 g | [Cu]I
catalyst | tetrakis(triphenylphosphine)palladium | 9.15 mmol, 10.6 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | Water | O | H2O
product | 3-Trimethylsilanylethynyl-pyridin-2-ylamine | 28.1 g, 80.7% | C[Si](C)(C)C#CC=1C(=NC=CC1)N | C10H14N2Si
